US05616586
trans-9-Bromo-5-(p-ethoxycarbonylphenylcarbamoylmethyl)-6-methyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 52 was carried out with trans-9-bromo-5-carboxymethyl-6-methyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (50 mg, 0.14 mmol) and p-ethoxycarbonylaniline (24 mg, 0.15 mmol) to give 58 mg of the title compound (82%): mp 282°~292° C.; 1H NMR (270 MHz, DMSO-d6) δ12.09 (s, 1H), 10.33 (s, 1H), 7.90 (d, 2H, J=8.6 Hz), 7.70 (d, 2H, J=8.6 Hz), 7.21 (s, 1H), 7.18 (s, 1H), 4.92~5.02 (m, 1H), 4.28 (q, 2H, J =6.9 Hz), 3.20 (dd, 1H, J=17.8, 5.9 Hz), 2.52~2.66 (m, 3H), 2.28~2.42 (m, 1H), 1.32 (t, 3H, J=6.9 Hz), 0.87 (d, 3H, J=6.9 Hz).

reactant | trans-9-bromo-5-carboxymethyl-6-methyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.14 mmol, 50 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@H]([C@@H](C2)C)CC(=O)O | C14H13BrN2O4
reactant | p-ethoxycarbonylaniline | 0.15 mmol, 24 mg | C(C)OC(=O)C1=CC=C(N)C=C1 | C9H11NO2
product | trans-9-Bromo-5-(p-ethoxycarbonylphenylcarbamoylmethyl)-6-methyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 58 mg, 82% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@H]([C@@H](C2)C)CC(NC2=CC=C(C=C2)C(=O)OCC)=O | C23H22BrN3O5
